* Arm A oscillator 2: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 2: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.6223
Cg0 i1_A 0 1.052330e-16
Cg1 nand_Y 0 1.052330e-16
Cc0 i1_A i2_A 2.546480e-17
Cc1 i1_A nand_B 2.851850e-17
Rn1_1 i1_Y i2_A 23.5955
Cg2 i2_A 0 2.590930e-16
Cg3 i1_Y 0 2.590930e-16
Cc2 i2_A i3_A 8.492360e-17
Rn10_2 i10_Y i11_A 19.4973
Cg4 i11_A 0 3.296620e-17
Cg5 i10_Y 0 3.296620e-17
Cc3 i11_A i10_A 9.441940e-17
Rn11_3 i11_Y i12_A 30.2652
Cg6 i12_A 0 1.470610e-16
Cg7 i11_Y 0 1.470610e-16
Cc4 i12_A i10_A 7.829040e-17
Cx0 i12_A 0 6.979720e-17
Rn12_4 i12_Y i13_A 19.4973
Cg8 i13_A 0 5.353250e-17
Cg9 i12_Y 0 5.353250e-17
Rn13_5 i13_Y i14_A 31.8009
Cg10 i14_A 0 3.020220e-16
Cg11 i13_Y 0 3.020220e-16
Cc5 i14_A i15_A 2.807150e-17
Cc6 i14_A i17_A 2.163940e-17
Cx1 i14_A 0 1.374930e-17
Rn14_6 i14_Y i15_A 20.8277
Cg12 i15_A 0 5.817080e-17
Cg13 i14_Y 0 5.817080e-17
Cc7 i15_A i16_A 1.263100e-16
Cc8 i15_A buf_A 2.546480e-17
Cx2 i15_A 0 6.490420e-17
Rn15_7 i15_Y s1458_4 9.3000
Rn15_8 s1458_4 buf_A 21.6304
Rn15_9 s1458_4 i16_A 12.2866
Cg14 i16_A 0 1.828370e-16
Cg15 buf_A 0 2.213980e-16
Cg16 i15_Y 0 0.000000e+00
Cg17 s1458_4 0 4.042350e-16
Cx3 i16_A 0 2.969970e-17
Cx4 buf_A 0 8.293650e-18
Cx5 buf_A 0 0.000000e+00
Rn16_10 i16_Y i17_A 31.3545
Cg18 i17_A 0 1.904670e-16
Cg19 i16_Y 0 1.904670e-16
Cx6 i17_A 0 7.412310e-17
Cx7 i17_A 0 1.013630e-16
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 6.032860e-17
Cg21 i17_Y 0 6.032860e-17
Cc9 i18_A i20_A 1.377430e-17
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 3.269130e-17
Cg23 i18_Y 0 3.269130e-17
Cc10 i19_A i20_A 5.337830e-17
Rn19_13 i19_Y i20_A 31.4973
Cg24 i20_A 0 2.400720e-16
Cg25 i19_Y 0 2.400720e-16
Cc11 i20_A i22_A 2.808530e-17
Cc12 i20_A i23_A 1.079260e-17
Cx8 i20_A 0 1.233590e-16
Rn2_14 i2_Y i3_A 32.3634
Cg26 i3_A 0 3.030530e-16
Cg27 i2_Y 0 3.030530e-16
Cc13 i3_A i4_A 5.765250e-17
Cx9 i3_A 0 0.000000e+00
Rn20_15 i20_Y i21_A 19.9080
Cg28 i21_A 0 4.495770e-17
Cg29 i20_Y 0 4.495770e-17
Cc14 i21_A i22_A 1.395340e-16
Rn21_16 i21_Y i22_A 22.4705
Cg30 i22_A 0 2.118630e-16
Cg31 i21_Y 0 2.118630e-16
Cc15 i22_A i23_A 2.229780e-17
Rn22_17 i22_Y i23_A 30.9795
Cg32 i23_A 0 2.238980e-16
Cg33 i22_Y 0 2.238980e-16
Cc16 i23_A i24_A 2.808530e-17
Cc17 i23_A i25_A 1.673050e-17
Cx10 i23_A 0 6.728760e-17
Rn23_18 i23_Y i24_A 20.8277
Cg34 i24_A 0 6.693070e-17
Cg35 i23_Y 0 6.693070e-17
Cc18 i24_A i25_A 5.301510e-17
Cc19 i24_A i26_A 1.579700e-16
Rn24_19 i24_Y i25_A 21.5866
Cg36 i25_A 0 1.699750e-16
Cg37 i24_Y 0 1.699750e-16
Cc20 i25_A i26_A 4.375580e-17
Cc21 i25_A i27_A 0.000000e+00
Rn25_20 i25_Y i26_A 23.5955
Cg38 i26_A 0 1.540680e-16
Cg39 i25_Y 0 1.540680e-16
Cc22 i26_A i27_A 3.867070e-16
Rn26_21 i26_Y i27_A 24.3545
Cg40 i27_A 0 3.820210e-16
Cg41 i26_Y 0 3.820210e-16
Cc23 i27_A i28_A 1.377430e-17
Rn27_22 i27_Y i28_A 32.6848
Cg42 i28_A 0 2.916130e-16
Cg43 i27_Y 0 2.916130e-16
Cc24 i28_A i29_A 4.543180e-17
Cx11 i28_A 0 4.350480e-17
Rn28_23 i28_Y i29_A 30.9795
Cg44 i29_A 0 2.177950e-16
Cg45 i28_Y 0 2.177950e-16
Cc25 i29_A i30_A 3.000230e-17
Cx12 i29_A 0 0.000000e+00
Rn29_24 i29_Y i30_A 20.8277
Cg46 i30_A 0 1.144830e-16
Cg47 i29_Y 0 1.144830e-16
Cc26 i30_A nand_B 2.629080e-17
Rn3_25 i3_Y i4_A 20.8277
Cg48 i4_A 0 1.051390e-16
Cg49 i3_Y 0 1.051390e-16
Cc27 i4_A i5_A 3.717400e-17
Rn30_26 i30_Y nand_B 21.3054
Cg50 nand_B 0 1.618810e-16
Cg51 i30_Y 0 1.618810e-16
Rn4_27 i4_Y i5_A 21.1313
Cg52 i5_A 0 1.530890e-16
Cg53 i4_Y 0 1.530890e-16
Cc28 i5_A i6_A 2.838540e-17
Rn5_28 i5_Y i6_A 31.4795
Cg54 i6_A 0 1.905130e-16
Cg55 i5_Y 0 1.905130e-16
Cc29 i6_A i7_A 2.807150e-17
Cc30 i6_A i9_A 2.807150e-17
Cx13 i6_A 0 8.272170e-17
Rn6_29 i6_Y i7_A 22.5152
Cg56 i7_A 0 2.057830e-16
Cg57 i6_Y 0 2.057830e-16
Cc31 i7_A i8_A 9.276500e-17
Cc32 i7_A i9_A 6.067690e-17
Rn7_30 i7_Y i8_A 19.4973
Cg58 i8_A 0 3.888980e-17
Cg59 i7_Y 0 3.888980e-17
Rn8_31 i8_Y i9_A 34.0777
Cg60 i9_A 0 3.531990e-16
Cg61 i8_Y 0 3.531990e-16
Cc33 i9_A i10_A 5.423730e-17
Cx14 i9_A 0 0.000000e+00
Rn9_32 i9_Y i10_A 22.5152
Cg62 i10_A 0 1.920140e-16
Cg63 i9_Y 0 1.920140e-16
Cg64 buf_X 0 5.499830e-16

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
